US06258812B1
1-(4-Chloroanilino)-4-(4-pyridylmethyl)phthalazine dihydrochloride
A mixture of 15.22 g (59.52 mmol) 1-chloro-4-(4-pyridylmethyl)phthalazine (for preparation see German Auslegeschriftno. 1 061 788 published Jul. 23, 1959]), 7.73 g (60.59 mmol) 4-chloroaniline and 200 ml 1-butanol is heated for 2 h under reflux. The crystallizate which is obtained when the mixture slowly cools to 5° C. is then filtered off and washed with 1-butanol and ether. The filter residue is dissolved in about 200 ml hot methanol, the solution is treated with 0.75 g activated carbon and filtered Via a Hyflo Super Cel, and the pH of the filtrate is adjusted to about 2.5 with 7 ml 3N methanolic HCl. The filtrate is evaporated to about half the original volume and ether added until slight turbidity occurs; cooling then leads to the precipitation of crystals. The crystallizate is filtered off, washed with a mixture of methanol/ether (1:2) as well as ether, dried for 8 h at 110° C. under HV, and equilibrated for 72 h at 20° C. and in room atmosphere. In this way, the title compound is obtained with a water content of 8.6%; m.p. >270° C.; 1H NMR (DMSO-d6) 11.05-12.20 (br), 9.18-9.23 (m, 1H), 8.88 (d, 2H), 8.35-8.40 (m, 1H), 8.18-8.29 (m, 2H), 8.02 (d, 2H), 7.73 (d, 2H), 7.61 (d, 2H), 5.02 (s, 2H); ESI-MS: (M+H)+=347.

reactant | 1-chloro-4-(4-pyridylmethyl)phthalazine | 59.52 mmol, 15.22 g | ClC1=NN=C(C2=CC=CC=C12)CC1=CC=NC=C1 | C14H10ClN3
reactant | 4-chloroaniline | 60.59 mmol, 7.73 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | 1-butanol | 200 ml | C(CCC)O | C4H10O
product | 1-(4-Chloroanilino)-4-(4-pyridylmethyl)phthalazine dihydrochloride | Cl.Cl.ClC1=CC=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=C1 | InChI=1S/C20H15ClN4.2ClH/c21-15-5-7-16(8-6-15)23-20-18-4-2-1-3-17(18)19(24-25-20)13-14-9-11-22-12-10-14;;/h1-12H,13H2,(H,23,25);2*1H
